US04713386
A mixture of 8.6 g (0.06 mole) of monoethyl malonate and 10.0 g (0.048 mole) of 3,4-dihydro-4-phenylisoquinoline was stirred in a preheated oil bath at 120° C. for 45 min to give 14.0 g (98.7%) of ethyl 1,2,3,4-tetrahydro-4-phenyl-1-isoquinolineacetate as a pale yellow syrup. The ester was used in the next step without further purification.

reactant | monoethyl malonate | 0.06 mole, 8.6 g | C(CC(=O)[O-])(=O)OCC
reactant | 3,4-dihydro-4-phenylisoquinoline | 0.048 mole, 10.0 g | C1(=CC=CC=C1)C1CN=CC2=CC=CC=C12 | C15H13N
product | ethyl 1,2,3,4-tetrahydro-4-phenyl-1-isoquinolineacetate | 14.0 g, 98.7% | C1(=CC=CC=C1)C1CNC(C2=CC=CC=C12)CC(=O)OCC | C19H21NO2
